US05225402
A mixture of 1-{1-[4-(4-aminobutoxy)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril (0.50 g), acetic acid (10 ml) and 2,5-dimethoxytetrahydrofuran (0.17 ml) is refluxed with stirring under heating for 1 hour. The reaction solution is concentrated under reduced pressure and the resulting residue is purified by silica gel column chromatography (solvent: dichloromethane:methanol=100:1) to give 1-[1-{4-[4-(1-pyrrolyl)butoxy]benzoyl}-4-piperidinyl]-3,4-dihydrocarbostyril (0.30 g).

reactant | 1-{1-[4-(4-aminobutoxy)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril | 0.50 g | NCCCCOC1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C25H31N3O3
reactant | 2,5-dimethoxytetrahydrofuran | 0.17 ml | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 1-[1-{4-[4-(1-pyrrolyl)butoxy]benzoyl}-4-piperidinyl]-3,4-dihydrocarbostyril | 0.30 g | N1(C=CC=C1)CCCCOC1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C29H33N3O3
